US08791107B2
2-(1H-benzo[d]imidazol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 1 using 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 50 mg, 0.221 mmol), 1H-benzo[d]imidazol-4-ylboronic acid (71.5 mg, 0.441 mmol) and PdCl2(dppf) (12.91 mg, 0.018 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.03 (dd, J=11.87, 8.59 Hz, 1H), 3.33-3.75 (m, 5H), 3.98 (m, 2H), 4.74-4.84 (m, 1H), 6.49-7.07 (br s, 1H), 7.54 (t, J=7.83 Hz, 1H), 7.79-7.91 (m, 2H), 8.25-8.33 (m, 1H), 8.98 (s, 1H), 12.18-12.29 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C16H16N6O, 309.14. found 309.3.

reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.221 mmol, 50 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | 1H-benzo[d]imidazol-4-ylboronic acid | 0.441 mmol, 71.5 mg | N1C=NC2=C1C=CC=C2B(O)O | C7H7BN2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.018 mmol, 12.91 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1H-benzo[d]imidazol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | N1C=NC2=C1C=CC=C2C2=NC=1N3C(CNC1C=N2)COCC3 | C16H16N6O
